US04013692
A solution of ethyl 3-phenyl-7-benzofuranacetate, 2.0 g., and hydrazine, 1 g., in 15 ml. of ethanol is heated overnight at reflux. The mixture is cooled and the white precipitate collected. Recrystallization from benzene gives 3-phenyl-7-benzofuranacethydrazide, m.p. 158°-159° C.

reactant | ethyl 3-phenyl-7-benzofuranacetate | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)OCC | C18H16O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 3-phenyl-7-benzofuranacethydrazide | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)NN | C16H14N2O2
